US07816387B2
3-[Methyl(methylsulfonyl)amino]-5-({[(1R)-1-phenylethyl]amino}-carbonyl)benzoic acid
A mixture of 3-(methoxycarbonyl)-5-[methyl(methylsulfonyl)amino]isophthalic acid obtained in Reference Example 6 11.5 g (40 mmol), WSC.HCl 8.43 g (44 mmol), HOBt.H2O 6.74 g (44 mmol), (R)-1-phenethylamine 5.6 mL (44 mmol) and N,N-dimethylformamide (100 mL) was stirred at room temperature for 15 hours. The reaction solution was diluted with ethyl acetate/toluene=1:1 (300 mL) and washed with water (400 mL). The aqueous layer was extracted twice with ethyl acetate/toluene=1:1 (300 mL). The combined organic layer was dried on magnesium sulfate and the mixture was concentrated. The resulting solid was dissolved in 2N aqueous sodium hydroxide solution (80 mL), methanol (80 mL) and tetrahydrofuran (80 mL) and the mixture was stirred at room temperature for 15 hours. The solvent was concentrated and thereto was added water (100 mL) and the mixture was washed twice with ethyl acetate (100 mL). The aqueous layer was adjusted by adding 1N hydrochloric acid to pH=3 and the precipitated solid was collected by filtering and dried under vacuum to give 13.2 g (35.1 mmol) of the title compound. (yield: 88%).

reactant | 3-(methoxycarbonyl)-5-[methyl(methylsulfonyl)amino]isophthalic acid | COC(=O)C1(CC(C(=O)O)=CC(=C1)N(S(=O)(=O)C)C)C(=O)O | C12H15NO8S
reactant | WSC.HCl | 44 mmol, 8.43 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 44 mmol, 6.74 g | O | H2O
solvent | ethyl acetate toluene | C(C)(=O)OCC.C1(=CC=CC=C1)C
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 3-[Methyl(methylsulfonyl)amino]-5-({[(1R)-1-phenylethyl]amino}-carbonyl)benzoic acid | 35.1 mmol, 13.2 g, yield: 88% | CN(C=1C=C(C(=O)O)C=C(C1)C(=O)N[C@H](C)C1=CC=CC=C1)S(=O)(=O)C | C18H20N2O5S
